* Extracted by KLayout with SKY130 LVS runset on : 21/07/2026 15:19

.SUBCKT BUF_X4 1 4 5 3 7
M$1 2 1 5 6 sky130_fd_pr__pfet_01v8 L=0.15 W=1 AS=0.26 AD=0.135 PS=2.52 PD=1.27
M$2 5 2 3 6 sky130_fd_pr__pfet_01v8 L=0.15 W=4 AS=0.54 AD=0.665 PS=5.08 PD=6.33
M$6 2 1 4 7 sky130_fd_pr__nfet_01v8 L=0.15 W=0.65 AS=0.169 AD=0.08775 PS=1.82
+ PD=0.92
M$7 4 2 3 7 sky130_fd_pr__nfet_01v8 L=0.15 W=2.6 AS=0.351 AD=0.43225 PS=3.68
+ PD=4.58
.ENDS BUF_X4
